US04929613
Ethyl α-[(cyclopropylamino)methylene]-2,5-difluoro-4-(1-methyl-4-piperidinyl)-β-oxobenzenepropanoate.
A solution of 3.81 g (10 mmoles) of ethyl α-(ethoxymethylene)-2,5-difluoro-4-(1-methyl-4-piperidinyl)β-oxobenzenepropanoate in 50 ml of ether was treated with 0.60 g (10 mmoles) of cyclopropylamine. After standing overnight the mixture was evaporated to dryness to afford the title compound.

reactant | ethyl α-(ethoxymethylene)-2,5-difluoro-4-(1-methyl-4-piperidinyl)β-oxobenzenepropanoate | 10 mmoles, 3.81 g | C(C)OC=C(C(=O)OCC)C(C1=C(C=C(C(=C1)F)C1CCN(CC1)C)F)=O | C20H25F2NO4
reactant | cyclopropylamine | 10 mmoles, 0.60 g | C1(CC1)N | C3H7N
solvent | ether | 50 ml | CCOCC | C4H10O
product | Ethyl α-[(cyclopropylamino)methylene]-2,5-difluoro-4-(1-methyl-4-piperidinyl)-β-oxobenzenepropanoate | C1(CC1)NC=C(C(=O)OCC)C(C1=C(C=C(C(=C1)F)C1CCN(CC1)C)F)=O | C21H26F2N2O3
